US08623907B2
Potassium hydroxide (1.105 g, 19.7 mmol) is added to a solution of [3-(4′-chloro-4-methyl-biphenyl-3-yl)-1,1-dimethylprop-2-ynyloxy]acetic acid methyl ester (6.7 g, 18.8 mmol) in dioxane (20 ml) and water (20 ml). After stirring for four hours at 20° C., the reaction mixture is extracted twice with dichloromethane. The aqueous layer is acidified at 0° C. to pH 2-3 using 1N aqueous hydrochloric acid and extracted twice with ethyl acetate. The combined organic extracts are dried over anhydrous sodium sulfate, filtered and the filtrate evaporated in vacuo. The residue is stirred in hexane and filtered to afford [3-(4′-chloro-4-methylbiphenyl-3-yl)-1,1-dimethylprop-2-ynyloxy]acetic acid (4.50 g) as a white solid (m.p. 125° C.).

reactant | Potassium hydroxide | 19.7 mmol, 1.105 g | [OH-].[K+]
reactant | [3-(4′-chloro-4-methyl-biphenyl-3-yl)-1,1-dimethylprop-2-ynyloxy]acetic acid methyl ester | 18.8 mmol, 6.7 g | COC(COC(C#CC=1C=C(C=CC1C)C1=CC=C(C=C1)Cl)(C)C)=O | C21H21ClO3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | [3-(4′-chloro-4-methylbiphenyl-3-yl)-1,1-dimethylprop-2-ynyloxy]acetic acid | 4.50 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)C#CC(OCC(=O)O)(C)C | C20H19ClO3
